data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202400153.json
{"doi": "10.1002_adsc.202400153", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrophotocatalytic carbothiocyanation of N-alkenylacrylamides with KSCN to give thiocyanato-4-pyrrolin-2-ones, either acridinium-catalyzed (conditions A) or self-photocatalyzed by the diene substrate/product (conditions B).", "mechanism_family": ["radical_anodic", "photoredox_combined", "radical_polar_crossover"], "electrochemical_role": "Anodic single-electron oxidation of KSCN (or of the reduced photocatalyst) to regenerate the oxidized PC; the excited PC* (acridinium under A, or the substrate/product 1a/3a acting as self-PC under B) oxidizes SCN- to SCN radical, and the anode reoxidizes the reduced PC•- closing the cycle, with concomitant cathodic H+ reduction to H2.", "key_intermediates": [{"name": "excited photocatalyst [PC/1a/3a]*", "smiles": null, "role": "reactive"}, {"name": "thiocyanate radical (NCS•)", "smiles": "[S]C#N", "role": "reactive"}, {"name": "thiocyanogen (NCSSCN)", "smiles": "N#CSSC#N", "role": "off_pathway"}, {"name": "C-centered radical adduct I from SCN addition to acryloyl alkene", "smiles": null, "role": "transient"}, {"name": "cyclized C-centered radical II (ring-closed via enaminic double bond)", "smiles": null, "role": "transient"}, {"name": "cationic intermediate III after oxidative SET", "smiles": null, "role": "transient"}, {"name": "reduced photocatalyst [PC/1a/3a]•-", "smiles": null, "role": "transient"}], "electron_flow": "Photoexcited PC (acridinium under A, or 3-aza-1,5-diene 1a/pyrrolinone 3a as self-PC under B) oxidizes SCN- to SCN•, generating PC•-; SCN• adds regioselectively to the acrylamide alkene to give radical I, which undergoes intramolecular radical cyclization onto the enamine to give radical II; II is oxidized (SET to PC* or anode) to cation III, which deprotonates to product 3a, and PC•- is reoxidized at the anode while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction shut down under both conditions A and B; TEMPO-SCN adduct detected by ESI-HRMS, supporting SCN• intermediacy."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction completely suppressed."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Reaction shut down; with NaSMs instead of KSCN, DPE-Ms adduct 6a was isolated (58% A, 62% B), supporting free radical S-centered intermediate."}, {"name": "CuCl2", "smiles": "[Cl-].[Cl-].[Cu+2]", "purpose": "redox_probe", "observation": "Electron scavenger; completely suppressed product formation, consistent with SET pathway."}, {"name": "p-dinitrobenzene (pDNB)", "smiles": "O=[N+]([O-])c1ccc(cc1)[N+](=O)[O-]", "purpose": "redox_probe", "observation": "SET scavenger; significant yield decrease (to 30% A, 41% B)."}, {"name": "CCl4", "smiles": "ClC(Cl)(Cl)Cl", "purpose": "redox_probe", "observation": "Electron scavenger; yield decreased (43% A, 24% B)."}, {"name": "thiocyanogen (SCN)2 / NCSSCN", "smiles": "N#CSSC#N", "purpose": "intermediate_trap", "observation": "Reacted with 1a to give 3a in only 44% (A/B), 9% (Mes-Acr+/blue LED), 8% (365 nm UVA); less reactive than KSCN/anodic conditions, suggesting NCSSCN is not the key productive intermediate."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current", "UV_vis", "stoichiometric_intermediate", "DFT", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Two operative regimes are proposed: (A) Mes-Acr+ acts as photocatalyst at 455 nm with electrolysis; (B) PC-free, where 3-aza-1,5-diene 1a and product 3a self-photocatalyze under 365 nm UVA. Stern-Volmer shows KSCN quenches Mes-Acr+* (not 1a), while 1a* and 3a* are quenched by KSCN. Computed triplet energies (1a 50.6, 3a 54.3, NCSSCN 28.9 kcal/mol) suggest EnT to NCSSCN is exergonic, but chalcone dimerization control rules out EnT photocatalysis by 1a/3a, so 1a/3a operate as SET photocatalysts. Low quantum yields (Φ=0.009 A, 0.037 B) and on/off experiments argue against long radical chains. Alternative NCSSCN-mediated pathway considered but disfavored. H2 evolution at cathode confirmed."}
